US06235789B1
1-[2-(Trifluoroacetylamino)ethyl]-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene
To a solution of 1-(2-aminoethyl)-7-methoxy-1,2,3,4-tetrahydro-2,2-dimethylnaphthalene hydrochloride (1.5 g, 5.56 mmol) in pyridine (10 ml) was added gradually dropwise, under ice-cooling, trifluoroacetic anhydride (2.34 g, 11.1 mmol). The mixture was stirred for 4 hours at room temperature, which was poured into water, followed by subjecting the organic layer to extraction with chloroform. The extract solution was washed with brine and water, which was then dried over anhydrous magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (hexane:ethyl acetate=9:1) to give the above-titled compound (1.55 g, yield 85%, oil).

reactant | 1-(2-aminoethyl)-7-methoxy-1,2,3,4-tetrahydro-2,2-dimethylnaphthalene hydrochloride | 5.56 mmol, 1.5 g | Cl.NCCC1C(CCC2=CC=C(C=C12)OC)(C)C
reactant | trifluoroacetic anhydride | 11.1 mmol, 2.34 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-(Trifluoroacetylamino)ethyl]-7-methoxy-2,2-dimethyl-1,2,3,4-tetrahydronaphthalene | 1.55 g, yield 85% | FC(C(=O)NCCC1C(CCC2=CC=C(C=C12)OC)(C)C)(F)F | C17H22F3NO2
